US09340538B2
Step E: 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-methyl-1,3,4-thiadiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.04 g, 2 mmol) was reacted with morpholine-3-carboxylic acid (0.26 g, 2 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.63 g, 55%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1.04 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC(=NN1)C | C17H15Br2FN4O2S
reactant | morpholine-3-carboxylic acid | 2 mmol, 0.26 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-methyl-1,3,4-thiadiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.63 g, 55% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC(=NN1)C)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H23BrFN5O5S
